US07166625B2
3-[2-(4-Hydroxyphenyl)-2-oxoethyl]-4,5-dimethylthiazolium bromide
The neat mixture of 2-bromo-4′-hydroxyacetophenone (3 g, 15 mmol) and 4,5-dimethylthiazole (1.71 g, 15 mmol) was heated at 110° C. for 3 hrs. It was dissolved in acetonitrile (15 mL) and cooled to room temperature. Tert-butyl methyl ether (5 mL) was added and the reaction mixture kept at room temperature overnight. The product crystallized was filtered, washed well with a mixture of acetonitrile and tert-butyl methyl ether (1:1, v/v) and dried. It was recrystallized from a mixture of acetonitrile, ethyl alcohol and tert-butyl methyl ether. Yield: 3.18 g (64%); mp. 245–247° C. (dec.).

reactant | 2-bromo-4′-hydroxyacetophenone | 15 mmol, 3 g | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | 4,5-dimethylthiazole | 15 mmol, 1.71 g | CC=1N=CSC1C | C5H7NS
reactant | Tert-butyl methyl ether | 5 mL | COC(C)(C)C | C5H12O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-[2-(4-Hydroxyphenyl)-2-oxoethyl]-4,5-dimethylthiazolium bromide | [Br-].OC1=CC=C(C=C1)C(C[N+]1=CSC(=C1C)C)=O | InChI=1S/C13H13NO2S.BrH/c1-9-10(2)17-8-14(9)7-13(16)11-3-5-12(15)6-4-11;/h3-6,8H,7H2,1-2H3;1H
